US06841562B2
60 cm3 of a 1 N aqueous sodium hydroxide solution are added to 7.05 g of methyl (3RS,4RS)-4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-carboxylate in 100 cm3 of dioxane. The reaction medium is then heated at 60° C. for 2 hours and then concentrated to dryness under reduced pressure (45° C.; 5 kPa). The residue obtained is taken up with 300 cm3 of diethyl ether and 500 cm3 of distilled water. The aqueous phase is then washed with 200 cm3 of diethyl ether and then acidified with 55 cm3 of a 1 N aqueous hydrochloric acid solution. Re-extraction is then carried out with 2 times 250 cm3 of ethyl acetate. The pooled organic phases are dried over magnesium sulfate for 1 hour, then filtration is carried out through a sintered glass funnel and evaporation is carried out under reduced pressure (45° C.; 5 kPa). 5.5 g of (3RS,4RS)-4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-carboxylic acid, in the form of a white solid, are obtained.

reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | methyl (3RS,4RS)-4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-carboxylate | 7.05 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC)OC | C25H33ClN2O5
reactant | diethyl ether | 300 cm3 | C(C)OCC | C4H10O
reactant | water | 500 cm3 | O | H2O
solvent | dioxane | 100 cm3 | O1CCOCC1 | C4H8O2
product | (3RS,4RS)-4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-carboxylic acid | 5.5 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O)OC | C24H31ClN2O5
